US05242945
To a stirring solution of 189 mg (1.89 mmol) of tetronic acid in 15 mL of dimethylformamide is added 290 μL (2.08 mmol) of triethylamine and 8 mg (66 μmol) of 4-dimethylaminopyridine at 0° C. Next, 427 mg (2.22 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 690 mg (2.20 mmol) of 10-(4-chlorophenyl)dec-9-enoic acid as a mixture of E and Z isomers are added and the reaction mixture is stirred overnight at room temperature. The reaction is acidified with 1.0N HCl and extracted three times with ethyl acetate. The combined organic layers are washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue is purified via flash chromatography on a 40 mm×150 mm silica gel column eluting with 5% methanol/ethyl acetate to give 400 mg (58%) of pure 4-hydroxy-3-[10-(4-chlorophenyl)-1-oxodec-9-enyl] -2(5H)-furanone as a mixture of E and Z isomers.

reactant | tetronic acid | 1.89 mmol, 189 mg | C1C(=O)COC1=O | C4H4O3
reactant | triethylamine | 2.08 mmol, 290 μL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.22 mmol, 427 mg | Cl.CN(CCCN=C=NCC)C
reactant | 10-(4-chlorophenyl)dec-9-enoic acid | 2.20 mmol, 690 mg | ClC1=CC=C(C=C1)C=CCCCCCCCC(=O)O | C16H21ClO2
reactant | HCl | 1.0N | Cl | ClH
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 66 μmol, 8 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-hydroxy-3-[10-(4-chlorophenyl)-1-oxodec-9-enyl] -2(5H)-furanone | 400 mg, 58% | OC1=C(C(OC1)=O)C(CCCCCCCC=CC1=CC=C(C=C1)Cl)=O | C20H23ClO4
